US07592373B2
1.33.c. (4-pyrrolidin-1-ylmethylphenyl)propynoic acid
5.98 mL (14.85 mmol) of a 1.6M butyllithium solution in n-hexane is added dropwise to a solution of 2.3 g (12.41 mmol) of 1-(4-ethynylbenzyl)pyrrolidine in 50 mL of THF at −78° C. and stirred for 1 hour at this temperature. Then dry ice is added to the reaction mixture. Then the reaction mixture is allowed to come up to ambient temperature and stirred for 14 hours. The reaction mixture is combined with dilute hydrochloric acid and extracted with dichloromethane. The organic phase is separated off and dried over sodium sulfate. The sodium sulfate is separated off and the solvent is removed. Yield: 0.3 g (10.5% of theory); C14H15NO2 (M=229.28); calc.: molecular ion peak (M+H)+: 230; found: molecular ion peak (M+H)+: 230; Rf value: 0.15 (silica gel, dichloromethane/methanol/ammonia (9:1:0.1)).

reactant | butyllithium | 1.6M | C(CCC)[Li]
reactant | 1-(4-ethynylbenzyl)pyrrolidine | 12.41 mmol, 2.3 g | C(#C)C1=CC=C(CN2CCCC2)C=C1 | C13H15N
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4-pyrrolidin-1-ylmethylphenyl)propynoic acid | N1(CCCC1)CC1=CC=C(C=C1)C#CC(=O)O | C14H15NO2
